US06569901B2
To a solution of 1,3-dichloro-phenyl acetylene (6.07 g, 35.5 mmol) in dry THF (60 mL) was added palladium acetate (186 mg, 0.68 mmol), ethyl 2-butynoate (5.97 g, 53.2 mmol) and tris (2,6-dimethoxyphenyl)phosphine (316 mg, 0.68 mmol) at room temperature. The reaction mixture was stirred for 18 h and filtered. The filtrate was washed with water (10 mL), and the water phase was extracted with ether (10 mL). The combined organic phases were dried and evaporated. The residue was purified by column chromatography using heptane:THF (20:1) as eluent. (E)-3-Methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester was isolated in 4.65 g (46%) yield.

reactant | 1,3-dichloro-phenyl acetylene | 35.5 mmol, 6.07 g | ClC1(CC(=CC=C1)Cl)C#C | C8H6Cl2
reactant | ethyl 2-butynoate | 53.2 mmol, 5.97 g | C(C#CC)(=O)OCC | C6H8O2
reactant | tris (2,6-dimethoxyphenyl)phosphine | 0.68 mmol, 316 mg | COC1=C(C(=CC=C1)OC)P(C1=C(C=CC=C1OC)OC)C1=C(C=CC=C1OC)OC | C24H27O6P
reactant | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.68 mmol, 186 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-Methyl-5-(3,5-dichloro-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(\C=C(\C#CC1=CC(=CC(=C1)Cl)Cl)/C)=O | C14H12Cl2O2
